US05002945
100 mg of 60% sodium hydride are suspended in 2 ml of dimethyl formamide, and a solution of one g of 1-(2-pyridyl)-2-[2-(2,4,6-trimethylphenyl)sulfonylaminobenzylthio]imidazole in 2 ml of dimethyl formamide is added thereto under ice-cooling. The mixture is stirred at room temperature for 30 minutes, and 320 mg of methyl iodide are added thereto. The mixture is stirred for 2 hours. The reaction mixture is poured into water, and the resultant oily product is extracted with ethyl acetate. The extract is dried and evaporated. The residue is purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=3:2), whereby 0.76 g of 1-(2-pyridyl)-2-{2-[N-methyl-N-(2,4,6-trimethylphenyl)sulfonylamino]benzylthio}imidazole is obtained.

reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | 1-(2-pyridyl)-2-[2-(2,4,6-trimethylphenyl)sulfonylaminobenzylthio]imidazole | N1=C(C=CC=C1)N1C(=NC=C1)SCC1=C(C=CC=C1)NS(=O)(=O)C1=C(C=C(C=C1C)C)C | C24H24N4O2S2
reactant | methyl iodide | 320 mg | CI | CH3I
reactant | water | O | H2O
solvent | dimethyl formamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-(2-pyridyl)-2-{2-[N-methyl-N-(2,4,6-trimethylphenyl)sulfonylamino]benzylthio}imidazole | 0.76 g | N1=C(C=CC=C1)N1C(=NC=C1)SCC1=C(C=CC=C1)N(S(=O)(=O)C1=C(C=C(C=C1C)C)C)C | C25H26N4O2S2
